US08563576B2
(4-bromothiazol-2-yl)(2-fluoropyridin-3-yl)methanone
2,4-dibromothiazole (3 g, 12.35 mmol) was dissolved in ether (100 mL) and cooled to 0° C. Chloro-isopropyl-magnesium (7.41 mL, 14.82 mmol, 2M in diethyl ether) was then added dropwise at 0° C. over approximtely 5 mins. During addition, a white precipitate formed. After complete addition, the mixture was stirred at 0° C. for 2 hours. A solution of 2-fluoro-N-methoxy-N-methyl-pyridine-3-carboxamide (2.389 g, 12.97 mmol) in ether (10 mL) was then added dropwise over 5 mins at 0° C. Left to warm to room temperature over 3 days. The reaction was quenched with water, extracted with EtOAc, organics combined, washed with brine, dried (MgSO4), filtered and concentrated in vacuo. Crude product purified by flash chromatography (80 g SiO2, 0 to 25% EtOAc/petrol) to leave impure product as a cream solid. Purified again by flash chromatography (40 g SiO2, 10 to 20% EtOAc/petrol) to leave product as a cream solid (1.088 g, 31%); 1H NMR DMSO-d6 δ7.64-7.60 (m, 1H), 8.57-8.50 (m, 3H), ES+ 288.85.

reactant | 2,4-dibromothiazole | 12.35 mmol, 3 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | Chloro-isopropyl-magnesium | 14.82 mmol, 2M, 7.41 mL | Cl[Mg]C(C)C
reactant | 2-fluoro-N-methoxy-N-methyl-pyridine-3-carboxamide | 12.97 mmol, 2.389 g | FC1=NC=CC=C1C(=O)N(C)OC | C8H9FN2O2
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | (4-bromothiazol-2-yl)(2-fluoropyridin-3-yl)methanone | 1.088 g, 31% | BrC=1N=C(SC1)C(=O)C=1C(=NC=CC1)F | C9H4BrFN2OS
